US04876354
1-(3-chlorophenyl)-1-(1-imidazolyl)-nona-3,7-dien-2-ol
26 ml (40 mmol) of 1.55 molar n-butyllithium-hexane solution were added dropwise to a solution of 7.70 g (40 mmol) of N-(3-chlorobenzyl)-imidazole in 100 ml of absolute THF at -70° C. in the course of 15 minutes. The mixture was stirred for 30 minutes at -70° C., after which a solution of 6.10 g (40 mmol) of citral (cis/trans mixture) in 50 ml of absolute THF was added dropwise at -70° C., stirring was continued for 45 minutes at about -70° C., the mixture was allowed to warm up to room temperature in the course of about 2 hours, 300 ml of water were added, while cooling, and the mixture was extracted with CH2Cl2. The combined CH2Cl2 extracts were dried, filtered and evaporated down in vacuo. The residue (13.2 g) from the extract was chromatographed over a silica gel S/n-hexane column (diameter 2.5 cm, height 56 cm), with elution with hexane/ethanol mixtures having an increasing ethanol content (up to a maximum of 20% of ethanol). The course of the elution was monitored by means of thin layer chromatography. This showed that the desired compound was present in the form of 4 stereoisomers in similar amounts. Fractions which were shown to be pure by thin layer chromatography were combined and evaporated down in vacuo until the weight remained constant. In this way, 1.2 g of virtually pure stereoisomer (a), having the highest Rf value, were obtained. In addition, 8.2 g of a mixture of the stereoisomers (b), (c)≥(a), (d) were obtained. Finally, 2.6 g were eluted, which were found by thin layer chromatography to contain a high concentration of the stereoisomer (d) (lowest Rf value). This product was subjected to a second chromatography by the same procedure, over a silica S/hexane column (diameter 2 cm, height 22 cm). 1.2 g of a steroisomer (d) which was shown to be virtually completely pure by thin layer chromatography was obtained.

reactant | N-(3-chlorobenzyl)-imidazole | 40 mmol, 7.70 g | ClC=1C=C(CN2C=NC=C2)C=CC1 | C10H9ClN2
reactant | citral | 40 mmol, 6.10 g | CC(C)=CCCC(C)=CC=O | C10H16O
reactant | water | 300 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(3-chlorophenyl)-1-(1-imidazolyl)-nona-3,7-dien-2-ol | 8.2 g | ClC=1C=C(C=CC1)C(C(C=CCCC=CC)O)N1C=NC=C1 | C18H21ClN2O
